US06300363B1
Step 1. 4-[N,N-bis(tert-butoxycarbonyl)amino]-2-chloropyridine
A mixture of 4-amino-2-chloropyridine (1.50 g, 11.67 mmol) and di-tert-butyl dicarbonate (10.7 ml, 46.67 mmol) in dichloromethane (30 ml) was stirred at room temperature for a week. After evaporation, the residue was purified by flash column chromatography eluting with ethyl acetate/hexane (1:10) to afford 3.09 g (81%) of the title compound as a solid. 1H-NMR (CDCl3) δ: 8.38 (1 H, d, J=5.4 Hz), 7.19 (1 H, d, J=1.8 Hz), 7.05 (1 H, dd, J=1.8, 5.4 Hz), 1.47 (18 H, s).

reactant | 4-amino-2-chloropyridine | 11.67 mmol, 1.50 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | di-tert-butyl dicarbonate | 46.67 mmol, 10.7 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-[N,N-bis(tert-butoxycarbonyl)amino]-2-chloropyridine | 3.09 g, 81% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=CC(=NC=C1)Cl | C15H21ClN2O4
